US07179912B2
(5-Morpholin-4-yl-2-nitrophenyl)-methanol
A mixture of 5-chloro-2-nitrobenzyl alcohol (1.9 g, 10.0 mmol), morpholine (0.9 mL, 10 mmol), and K2CO3 (1.4 g, 10 mmol) in DMF (20 mL) was stirred at 110° C. for 18 h. The reaction mixture was concentrated in vacuo, poured into aqueous sodium bicarbonate (NaHCO3) (5% w/v, 25 mL), and extracted with dichloromethane (25 mL). The organic extract was washed with brine (25 mL), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography (silica gel, 4×7.5 cm, eluted with 90/10 EtOAc/MeOH) to yield a solid impure product. The residue was repurified in the same manner and the resulting solid was triturated with hexanes (10 mL) to afford the product as a yellow solid (5 mg, 2%).

reactant | 5-chloro-2-nitrobenzyl alcohol | 10.0 mmol, 1.9 g | ClC=1C=CC(=C(CO)C1)[N+](=O)[O-] | C7H6ClNO3
reactant | morpholine | 10 mmol, 0.9 mL | N1CCOCC1 | C4H9NO
reactant | K2CO3 | 10 mmol, 1.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (5-Morpholin-4-yl-2-nitrophenyl)-methanol | 5 mg, 2% | N1(CCOCC1)C=1C=CC(=C(C1)CO)[N+](=O)[O-] | C11H14N2O4
